US06288062B1
(b) 4-(4-Fluorophenyl)-2-phenyl-5-(4-pyridyl)oxazole
A solution of 2-benzoyloxy-1-(4-fluorophenyl)-2-(4-pyridyl)ethanone (0.131 g, 0.391 mmol) and ammonium acetate (0.28 g, 3.63 mmol) in glacial acetic acid (3 mL) was heated at reflux for 1.5 h. After cooling, the mixture was neutralized with conc. NH4OH and the solvent was removed in vacuo to give a yellow oil. Purification by flash chromatography (15-25% EtOAc/Hex) afforded the title compound as a white solid (9.0 mg): ESMS (m/z): 317 (M++H).

reactant | 2-benzoyloxy-1-(4-fluorophenyl)-2-(4-pyridyl)ethanone | 0.391 mmol, 0.131 g | C(C1=CC=CC=C1)(=O)OC(C(=O)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C20H14FNO3
reactant | ammonium acetate | 3.63 mmol, 0.28 g | C(C)(=O)[O-].[NH4+]
reactant | NH4OH | [NH4+].[OH-]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 4-(4-Fluorophenyl)-2-phenyl-5-(4-pyridyl)oxazole | 9.0 mg | FC1=CC=C(C=C1)C=1N=C(OC1C1=CC=NC=C1)C1=CC=CC=C1 | C20H13FN2O
